US09085583B2
To a solution of 2-methyl-1H-indole-3-carboxylic acid (3.3 g, 18.85 mmol), 1-hydroxybenzotriozole (4.69 g, 37.7 mmol, 2 eq), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (7.24 g, 37.7 mmol, 2 eq), triethylamine (20.0 mL) in dichloromethane (100 mL) was added 3-(aminomethyl)-4,6-dimethylpyridin-2-ol (5.77 g, 37.7 mmol, 2 eq). The reaction mixture was stirred at 20° C. for 13 hours. The mixture was washed with water (20 mL×2). The organic phase was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to give the residue, which was purified by column chromatography (silica gel, dichloromethane/methanol=10:2) to give N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methyl-1H-indole-3-carboxamide as a white solid (3.00 g, 9.7 mmol, 51%). LRMS (M+H+) m/z: calcd 309.36. found 310. HPLC Purity (214 nm): >95%. 1H NMR (300 MHz, d6-DMSO): δ 11.61 (s, 1H), 11.43 (s, 1H) 7.74 (d, J=5.1 Hz, 1H), 7.58-7.54 (m, 1H), 7.31 (d, J=7.2 Hz, 1H), 7.04 (t, J=6 Hz, 3H), 5.89 (s, 1H), 4.32 (d, J=4.5 Hz, 2H), 2.57 (s, 3H), 2.26 (s, 3H), 2.12 (s, 3H).

reactant | 2-methyl-1H-indole-3-carboxylic acid | 18.85 mmol, 3.3 g | CC=1NC2=CC=CC=C2C1C(=O)O | C10H9NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 37.7 mmol, 7.24 g, 2 eq | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 20.0 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2-ol | 37.7 mmol, 5.77 g, 2 eq | NCC=1C(=NC(=CC1C)C)O | C8H12N2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methyl-1H-indole-3-carboxamide | 9.7 mmol, 3.00 g, 51% | OC1=NC(=CC(=C1CNC(=O)C1=C(NC2=CC=CC=C12)C)C)C | C18H19N3O2
